US07138402B2
4-Chloro-5-(2-isobutylamino-ethyl)-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine
A solution of 2-[2-amino-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-ethanol (11.6 mg, 0.031 mmol) and Et3N (30 ul, 0.22 mmol) in THF (2 mL) was treated with MsCl (11 uL, 0.14 mmol) at rt for 15 min to give a solution of the title compound which was used without further purification. In a separate experiment, the material was purified by preparative TLC (EtOAc 100%). HPLC Rt: 4.765 min. 1H-NMR (CDCl3): δ 8.22 (s, 1H), 6.80 (s, 1H), 5.31 (s, 2H), 4.93 (s, 2H), 4.42 (t, 2H), 3.77 (s, 3H), 2.98 (t, 2H), 2.85 (s, 3H), 2.23 (s, 3H), 2.07 (s, 3H).

reactant | 2-[2-amino-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-ethanol | 0.031 mmol, 11.6 mg | NC=1N=C(C2=C(N1)N(C=C2CCO)CC2=NC=C(C(=C2C)OC)C)Cl | C17H20ClN5O2
reactant | Et3N | 0.22 mmol, 30 ul | CCN(CC)CC | C6H15N
reactant | MsCl | 0.14 mmol, 11 uL | CS(=O)(=O)Cl | CH3ClO2S
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-Chloro-5-(2-isobutylamino-ethyl)-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | ClC=1C2=C(N=C(N1)N)N(C=C2CCNCC(C)C)CC2=NC=C(C(=C2C)OC)C | C21H29ClN6O
